US06486143B2
Step C: (7-Chloro-6-nitro-2-oxo-1,2-dihydro-3-quinolyl)phosphonic Acid Diethyl Ester
55 ml of nitric acid are added dropwise to a solution of 55 ml of 96% sulphuric acid cooled in an ice bath, and then (7-chloro-2-oxo-1,2-dihydro-3-quinolyl)-phosphonic acid diethyl ester (14.7 g, 46.6 mmol) is added in portions whilst maintaining the temperature at less than or equal to 5° C. When the addition is complete, stirring is continued for 15 minutes and then the ice bath is withdrawn and the reaction mixture is brought to room temperature over a period of about 1 hour 30 minutes. The solution is poured into ice and the precipitate is stirred to obtain a filterable solid. Filtration is carried out, followed by washing with water to neutrality and drying in vacuo. The solid is suspended in 210 ml of ethanol at reflux; the batch is left to cool and filtered to obtain the title product after drying.

reactant | nitric acid | 55 ml | [N+](=O)(O)[O-] | HNO3
reactant | sulphuric acid | 55 ml | S(O)(O)(=O)=O | H2O4S
reactant | (7-chloro-2-oxo-1,2-dihydro-3-quinolyl)-phosphonic acid diethyl ester | 46.6 mmol, 14.7 g | C(C)OP(OCC)(=O)C=1C(NC2=CC(=CC=C2C1)Cl)=O | C13H15ClNO4P
product | (7-Chloro-6-nitro-2-oxo-1,2-dihydro-3-quinolyl)phosphonic Acid Diethyl Ester | C(C)OP(OCC)(=O)C=1C(NC2=CC(=C(C=C2C1)[N+](=O)[O-])Cl)=O | C13H14ClN2O6P
